US05750531
Step 2: 2,4-dihydroxy-6-ethylpyrimidine
A mixture solution of chloroacetic acid(33.3 g, 0.352 mol), water(400 ml) and 2-mercapto-6-ethylpyrimidine-4-one(29 g, 0.186 mol) prepared in the above Step 1 was heated to reflux for 14 hours and cooled to a room temperature. To the reaction mixture was added conc. HCl(95 ml) and the mixture was heated to reflux for 1 day. After the reaction mixture was cooled to a room temperature and concentrated under a reduced pressure, the residue was diluted with water. After stirring for 2 hours, the resulting solid was filtered and dried to give 11.16 g of the titled compound. (Yield: 43%)

reactant | chloroacetic acid | 0.352 mol, 33.3 g | ClCC(=O)O | C2H3ClO2
reactant | 2-mercapto-6-ethylpyrimidine-4-one | 0.186 mol, 29 g | SC1=NC(=CC(N1)=O)CC | C6H8N2OS
reactant | HCl | 95 ml | Cl | ClH
solvent | water | 400 ml | O | H2O
product | 2,4-dihydroxy-6-ethylpyrimidine | 11.16 g, Yield: 43% | OC1=NC(=CC(=N1)O)CC | C6H8N2O2
